US09403846B2
Step 3. Synthesis of (4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxetan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine (4)
1,8-Diazabicyclo[5.4.0]undec-7-ene (95%, 7.5 mg, 47 μmol) was added to a solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxetan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C33) (19 mg, 43 μmol) in methanol (0.5 mL), and the reaction mixture was heated at 80° C. for 3.5 hours. After cooling and removal of solvent in vacuo, purification was carried out via reversed phase HPLC (Column: Waters XBridge C18, 5 μm; Mobile phase A: 0.03% ammonium hydroxide in water (v/v); Mobile phase B: 0.03% ammonium hydroxide in acetonitrile (v/v); Gradient: 20% to 60% B), providing the product as a gum. Yield: 11.7 mg, 34.4 μmol, 73%. LCMS m/z 341.2 [M+H+]. 1H NMR (600 MHz, DMSO-d6) δ 7.35 (ddd, J=9.2, 9.2, 7.0 Hz, 1H), 7.16-7.22 (m, 1H), 7.07-7.11 (m, 1H), 4.55-4.60 (m, 1H), 4.46-4.51 (m, 1H), 4.34-4.38 (m, 1H), 3.90 (dd, J=10.5, 2.2 Hz, 1H), 3.64-3.69 (m, 1H), 3.59 (d, J=10.1 Hz, 1H), 2.46-2.75 (m, 5H), 1.54-1.62 (m, 1H), 1.36-1.41 (m, 1H).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 47 μmol, 7.5 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxetan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 43 μmol, 19 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OCC2)NC(C2=CC=CC=C2)=O | C23H22F2N2O3S
solvent | methanol | 0.5 mL | CO | CH4O
product | (4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(oxetan-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OCC2)N | C16H18F2N2O2S
